US07632861B2
2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)-N,N-dimethylethanamine.
To a solution of 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanamine (25 mg, 0.058 mmol) and sodium cyanoborohydride (18.1 mg, 0.288 mmol) in acetonitrile (1.2 mL) at 0° C. was added formalin (0.15 mL). The ice bath was removed and stirring continued for 1 h, occasionally treating with a small drop of acetic acid to keep the pH slightly less than 7. The reaction was concentrated, dissolved in methanol, and loaded onto an SCX cartridge. The cartridge was flushed with several volumes of methanol which were discarded. The crude product was eluted with 2M ammonia in methanol and concentrated. The product was purified by column chromatography (5%-->10% MeOH/DCM) to give 15 mg (56%) as a colorless film. 1H-NMR (CD3OD, 300 MHz) δ 7.84 (m, 3H), 7.08-7.27 (m, 4H), 4.69 (qAB, JAB=13.1 Hz, 2H), 4.01 (m, 1H), 3.93 (ddd, J=11.3, 5.2, 4.0 Hz, 1H), 3.80 (qAB, JAB=10.4 Hz, 2H), 2.88 (m, 1H), 2.68 (ddd, J=16.2, 3.7, 3.4 Hz, 1H), 2.50 (m, 1H), 2.22 (m, 1H), 2.18 (s, 6H), 2.00-2.12 (m, 2H); 13C-NMR (CD3OD, 126 MHz) δ 142.6, 137.3, 135.3, 131.7 (q, J=32.6 Hz), 129.0, 127.5, 126.9, 126.5, 125.6, 123.8 (q, J=272 Hz), 121.0, 78.3, 76.7, 71.7, 60.7, 54.1, 44.3, 35.2, 29.4. Mass spec.: 462.40 (MH)+. Accurate mass spec.: m/z 462.1882 [MH]+, Δ=3.1 ppm.

reactant | 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanamine | 0.058 mmol, 25 mg | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCN)C=C(C1)C(F)(F)F)(F)F | C21H21F6NO2
reactant | sodium cyanoborohydride | 0.288 mmol, 18.1 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.15 mL | C=O | CH2O
solvent | acetonitrile | 1.2 mL | C(C)#N | C2H3N
product | 2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)-N,N-dimethylethanamine | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCN(C)C)C=C(C1)C(F)(F)F)(F)F | C23H25F6NO2
